US03987052
In the manner given in Example 2, 6-ethylthio-1,3-dihydro-5-(o-bromophenyl)-2H-1,4-benzodiazepine-2-thione is heated in ethanol with propionic acid hydrazide and the resulting product heated to 250° C. to give 7-ethylthio-1-ethyl-6-(o-bromophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine.

reactant | 6-ethylthio-1,3-dihydro-5-(o-bromophenyl)-2H-1,4-benzodiazepine-2-thione | C(C)SC1=CC=CC2=C1C(=NCC(N2)=S)C2=C(C=CC=C2)Br | C17H15BrN2S2
reactant | propionic acid hydrazide | C(CC)(=O)NN | C3H8N2O
solvent | ethanol | C(C)O | C2H6O
product | 7-ethylthio-1-ethyl-6-(o-bromophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | C(C)SC1=CC=CC2=C1C(=NCC=1N2C(=NN1)CC)C1=C(C=CC=C1)Br | C20H19BrN4S
